US05958942
ii) Synthesis of 5-[N-tert-butoxycarbonyl-N-[3-(trifluoromethanesulfonamido)propan-1-yl]-aminomethyl]imidazo[1,2-a]pyridine
To a solution of 3.03 g (9.01 mmol) of 5-[N-[3-(trifluoromethanesulfonamido)propan-1-yl]aminomethyl] imidazo[1,2-a]pyridine in 20 ml of ethanol was added dropwise, taking 5 minutes, 1.97 g (9.01 mmol) of di-tert-butyl dicarbonate. The reaction mixture was stirred for one hour at room temperature, then the solvent was distilled off under reduced pressure. The residue was purified by means of a silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 3.38 g of the desired compound (86.1%, colorless liquid).

reactant | 5-[N-[3-(trifluoromethanesulfonamido)propan-1-yl]aminomethyl] imidazo[1,2-a]pyridine | 9.01 mmol, 3.03 g | FC(S(=O)(=O)NCCCNCC1=CC=CC=2N1C=CN2)(F)F | C12H15F3N4O2S
reactant | di-tert-butyl dicarbonate | 9.01 mmol, 1.97 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[N-tert-butoxycarbonyl-N-[3-(trifluoromethanesulfonamido)propan-1-yl]-aminomethyl]imidazo[1,2-a]pyridine | 3.38 g, 86.1% | C(C)(C)(C)OC(=O)N(CCCNS(=O)(=O)C(F)(F)F)CC1=CC=CC=2N1C=CN2 | C17H23F3N4O4S
